US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-phenethylamino-pyrimidine-5-carbonitrile
From 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and phenethylamine in DME. ES-MS m/e (%): 360 (M+H+, 100).

reactant | 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-phenethylamino-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)NCCC1=CC=CC=C1 | C20H17N5O2
